US07186734B2
To a solution of bis-benzo[1,3]dioxol-5-ylmethyl-(3-butyl-2-iodo-5-phenyl-3H-imidazol-4-ylmethyl)-amine (62 mg, 0.1 mmol) and Pd(PPh3)4 (6 mg) in 1 ml of toluene is added aqueous sodium carbonate (0.4 ml of 2.0 N) and 2-methylphenyl boronic acid (18 mg, 0.13 mmol, 1.3 eq.) in 0.3 ml of ethanol under nitrogen, the resulting mixture is stirred at 100° C. for 8 h. After being cooled to room temperature, the reaction mixture is diluted with 10 ml of ethyl acetate, washed with water and brine and dried over sodium sulfate. Concentration and purification by flash chromatography affords 43 mg of bis-benzo[1,3]dioxol-5-ylmethyl-(3-butyl-5-phenyl-2-o-tolyl-3H-imidazol-4-ylmethyl)-amine 1H NMR (400 MHz, CDCl3) δ 7.70 (2H, d, J=7.2 Hz), 7.43˜7.24 (7H, m), 6.77˜6.67 (6H, m), 5.94 (4H, s), 3.87 (2H, t, J=7.6 Hz), 3.78(2H, s), 3.37 (4H, s), 2.20 (3H,s), 1.17 (2H, m), 0.88 (2H, m), 0.63 (3H, t, J=7.2 Hz); MS (+VE) m/z 588 (M+1).

reactant | bis-benzo[1,3]dioxol-5-ylmethyl-(3-butyl-2-iodo-5-phenyl-3H-imidazol-4-ylmethyl)-amine | 0.1 mmol, 62 mg | O1COC2=C1C=CC(=C2)CN(CC=2N(C(=NC2C2=CC=CC=C2)I)CCCC)CC2=CC1=C(OCO1)C=C2 | C30H30IN3O4
reactant | sodium carbonate | 2.0 N, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methylphenyl boronic acid | 0.13 mmol, 18 mg, 1.3 eq. | CC1=C(C=CC=C1)B(O)O | C7H9BO2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | bis-benzo[1,3]dioxol-5-ylmethyl-(3-butyl-5-phenyl-2-o-tolyl-3H-imidazol-4-ylmethyl)-amine | 43 mg | O1COC2=C1C=CC(=C2)CN(CC=2N(C(=NC2C2=CC=CC=C2)C2=C(C=CC=C2)C)CCCC)CC2=CC1=C(OCO1)C=C2 | C37H37N3O4
